US06884868B1
A mixture of 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid ethyl ester (2.46 g) and 1.0 mol/l sodium hydroxide solution (11.6 ml) in a mixed solvent of ethanol (50 ml) and tetrahydrofuran (125 ml) was refluxed for 33 hours, during which period additional 1.0 mol/l sodium hydroxide solution (24 ml) was added to the mixture. After cooling to ambient temperature, the reaction mixture was poured into cold water, and the mixture was adjusted to pH 2 with 1.0 mol/l hydrochloric acid. The resulting precipitates were filtered, washed with water and dried to give 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid (1.05 g).

reactant | 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid ethyl ester | 2.46 g | C(C)OC(C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C)=O | C25H33N3O3
reactant | sodium hydroxide | 1.0 mol/l, 11.6 ml | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1.0 mol/l, 24 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 mol/l | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid | 1.05 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C23H29N3O3
